US04886821
N-(3-Fluorophenyl)-2-pyridinecarboxamide (13.0 g, 60 mmol) and Lawesson's reagent (29.2 g, 72 mmol) were refluxed in toluene (180 mL) for 3 hours. The residue obtained after evaporating the solvent was flash chromatographed on silica gel (eluted with 2% ethyl acetate in petroleum ether) and then recrystallized from a mixture of dichloromethane and hexanes to yield a N-(3-fluorophenyl)-2-pyridinecarbothioamide as a yellow solid (6.75 g, 48%) m.p. 72°-76° C.

reactant | N-(3-Fluorophenyl)-2-pyridinecarboxamide | 60 mmol, 13.0 g | FC=1C=C(C=CC1)NC(=O)C1=NC=CC=C1 | C12H9FN2O
reactant | Lawesson's reagent | 72 mmol, 29.2 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 180 mL | C1(=CC=CC=C1)C | C7H8
product | N-(3-fluorophenyl)-2-pyridinecarbothioamide | 6.75 g, 48% | FC=1C=C(C=CC1)NC(=S)C1=NC=CC=C1 | C12H9FN2S
